US07585885B2
5-Difluoromethoxy-N-methyl-N-propyl-isophthalamic acid
Treat a solution of 5-difluoromethoxy-N-methyl-N-propyl-isophthalamic acid methyl ester (1.6 g, 5.3 mmol) in methanol (30 mL) with 2 N NaOH (4 mL, 8.0 mmol). Stir at room temperature overnight and acidify to about pH=4 using 1 N HCl. Extract with ethyl acetate (150 mL), wash the organic layer with saturated aqueous sodium chloride, dry (magnesium sulfate) and concentrate to give the title compound which is used in the next step without further purification.

reactant | 5-difluoromethoxy-N-methyl-N-propyl-isophthalamic acid methyl ester | 5.3 mmol, 1.6 g | COC(C1=CC(C(=O)N(CCC)C)=CC(=C1)OC(F)F)=O | C14H17F2NO4
reactant | NaOH | 8.0 mmol, 2 N, 4 mL | [OH-].[Na+]
reactant | HCl | 1 N | Cl | ClH
solvent | methanol | 30 mL | CO | CH4O
product | 5-Difluoromethoxy-N-methyl-N-propyl-isophthalamic acid | FC(OC=1C=C(C=C(C(=O)O)C1)C(=O)N(CCC)C)F | C13H15F2NO4
